US05756528
Step A: 2(R,S)-Methyl-2-{1-(Triphenylmethyl)-1H-imidazol-4-yl}-acetic acid methyl ester
A solution of 1-(triphenylmethyl)-1H-imidazol-4-ylacetic acid methyl ester (1.01 g, 2.63 mmol) in THF (25 ml) was cooled to -78° C. Lithium hexamethyldisilazide (2.76 ml of a 1M solution in THF, 2.76 mmol) was added dropwise and the reaction stirred 30 min at -78° C. Methyl iodide (0.164 ml, 2.76 mmol) was added and the reaction stirred a furthur 1 hr at -78° C. and then at -20° C. for 4 hrs. The reaction was quenched with water (10 ml) and saturated NaHCO3 solutuon (10 ml) and extracted with EtOAc. The organic extracts were dried (MgSO4) and the solvent evaporated in vacuo. Chromatography of the residue (SiO2, 2 to 3% MeOH in CH2Cl2, gradient elotion) afforded the product.

reactant | 1-(triphenylmethyl)-1H-imidazol-4-ylacetic acid methyl ester | 2.63 mmol, 1.01 g | COC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H22N2O2
reactant | Lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | Methyl iodide | 2.76 mmol, 0.164 ml | CI | CH3I
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2(R,S)-Methyl-2-{1-(Triphenylmethyl)-1H-imidazol-4-yl}-acetic acid methyl ester | COC(C(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C26H24N2O2
